US05969133
(2) Synthesis of 3-bis(2'-chloroethyl)amino-4-methoxybenzoic acid
A suspension of methyl 3-bis(2'-chloroethyl)amino-4-methoxybenzoate (2.70 g, 8.823 mmol) in concentrated HCl (37% w/w in H2O, 40 mL) was heated to reflux under N2 for 1 hour. The reaction mixture was treated with ice/H2O (200 mL), extracted with ethyl acetate (4×150 mL). The organic solution was concentrated to give a white solid (2.05 g, 80%). ESMS calcd for C12H15Cl2NO3 : 291.0; Found: 292.0 (M+H)+.

reactant | methyl 3-bis(2'-chloroethyl)amino-4-methoxybenzoate | 8.823 mmol, 2.70 g | ClCCN(C=1C=C(C(=O)OC)C=CC1OC)CCCl | C13H17Cl2NO3
solvent | HCl | 40 mL | Cl | ClH
product | 3-bis(2'-chloroethyl)amino-4-methoxybenzoic acid | 2.05 g, 80% | ClCCN(C=1C=C(C(=O)O)C=CC1OC)CCCl | C12H15Cl2NO3
